US04600788
(c) Preparation of 7-acetamido-4'-flavonecarboxylic acid
6 g of 7-acetamido-4'-flavonecarboxylic acid methyl ester are dissolved in 600 cc of dioxane. 12 g of sodium carbonate, dissolved in 250 cc of water, are added and the mixture is heated at 100° C. with stirring until the reaction is complete, for about 8 hours. The reaction is checked by plate chromatography (benzene (90)-dioxane (25)-acetic acid (4) elution solvent).

reactant | 7-acetamido-4'-flavonecarboxylic acid methyl ester | 6 g | COC(=O)C1=CC=C(C=2OC3=CC(=CC=C3C(C2)=O)NC(C)=O)C=C1 | C19H15NO5
reactant | sodium carbonate | 12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 600 cc | O1CCOCC1 | C4H8O2
solvent | water | 250 cc | O | H2O
product | 7-acetamido-4'-flavonecarboxylic acid | C(C)(=O)NC1=CC=C2C(C=C(OC2=C1)C1=CC=C(C=C1)C(=O)O)=O | C18H13NO5
